US05175157
2-[(N-(2-(4-Methoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-methylenedioxy- 1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-2-(4-methoxy-phenyl)-ethane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-methylenedioxy- 1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | C16H20N2O3
reactant | 1-chloro-2-(4-methoxy-phenyl)-ethane | ClCCC1=CC=C(C=C1)OC | C9H11ClO
product | 2-[(N-(2-(4-Methoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-6,7-methylenedioxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.COC1=CC=C(C=C1)CCN1CC(CCC1)CN1C(C2=CC3=C(C=C2CC1)OCO3)=O | InChI=1S/C25H30N2O4.ClH/c1-29-21-6-4-18(5-7-21)8-11-26-10-2-3-19(15-26)16-27-12-9-20-13-23-24(31-17-30-23)14-22(20)25(27)28;/h4-7,13-14,19H,2-3,8-12,15-17H2,1H3;1H
